US05075031
While 480 mg (1.6 mM) of (+) 2-cyano-2-methylhexyl p-toluenesulfonate, 357 mg (3.2 mM) of hydroquinone and 1.5 ml of n-butanol were stirred in a nitrogen atmosphere, sodium butoxide obtained by dissolving 83.3 mM (2.1 mM) of sodium hydroxide in 2.2 ml of n-butanol was added dropwise, followed by stirring for 20 hours under heating at 120° C. After the reaction, 5 ml of saturated sodium chloride aqueous solution was added, followed by extraction with ether. The ether layer was washed with distilled water and dried on sodium sulfate, followed by distilling-off of the solvent to obtain 296 mg of a crude product, which was then purified by thine layer chromatography (developer solvent: methylene chloride) to obtain 81.3 mg of (-)-p-(2-cyano-2-methylhexyloxy)phenol (Yield: 19.1%). [α]D -1.8 degree (c 0.836, benzene).

reactant | (+) 2-cyano-2-methylhexyl p-toluenesulfonate | 1.6 mM, 480 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(CCCC)(C)C#N)C | C15H21NO3S
reactant | hydroquinone | 3.2 mM, 357 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | sodium butoxide | [O-]CCCC.[Na+]
reactant | sodium hydroxide | 83.3 mM | [OH-].[Na+]
reactant | sodium chloride | 5 ml | [Cl-].[Na+]
solvent | n-butanol | 2.2 ml | C(CCC)O | C4H10O
solvent | n-butanol | 1.5 ml | C(CCC)O | C4H10O
product | (-)-p-(2-cyano-2-methylhexyloxy)phenol | 81.3 mg, Yield: 19.1% | C(#N)C(COC1=CC=C(C=C1)O)(CCCC)C | C14H19NO2
